US07109160B1
In Greenspoon et al., the design and preparation of nonpeptide analogues of RGD are described as follows. Compounds SF-6,5 and SFN-70 were prepared by coupling of methyl-5-aminovaleric acid with N-(butyloxycarbonyl)-6-aminohexanoic acid. The reaction was carried out using the 1,3-dicyclohexylcarbodiimide and 1 hydroxybenzotriazole in tetrahydroduran procedure. The butyloxycarbonyl protecting group was then removed by 50% trifluoroacetic acid in dichloromethane. Removal of the methyl ester protecting group was carried out with sodium hydroxide at pH 9.5, yielding SFN-70. The amine was converted to guanidium using 3,5-dimethylpyrazole-1-carboxamidine nitrate at pH 9.5 t produce the compound designated SF-6,5. Compound SF-6,6 was prepared from methyl-6-aminohexanoic acid and N-(butyloxycarbonyl)-6-aminohexanoic acid under the same conditions as used for SF-6,5. GK-5,5 was prepared from methyl-5-aminovaleric acid and N-(butyloxycarbonyl)-5-aminovaleric acid. Compounds AC-4 and AC-14 were prepared by stepwise synthesis either in solution or on a Merrifield resin, followed by deprotection and conversion of the amine to the guanidinium by the above-described methods. The final compounds were purified on preparative RP-18 columns and were judged pure by thin-layer chromatography (single spot) and 1H NMR spectroscopy. Compounds were characterized by 1H NMR and FAB-MS spectroscopy. The structures deduced from spectroscopy were consistent with the assigned structure. (Table 1). Table 1 shows a schematic presentation of the RGD-NH2 peptide and the corresponding non-peptide surrogates. Note that the distance between positions a and b is 11 atoms.

reactant | 3,5-dimethylpyrazole-1-carboxamidine nitrate | [N+](=O)(O)[O-].CC1=NN(C(=C1)C)C(=N)N
reactant | SF-6,5 | C(CCC(=O)NCCCCC(=O)O)CCN=C(N)N | C12H24N4O3
reactant | methyl-6-aminohexanoic acid | CC(C(=O)O)CCCCN | C7H15NO2
reactant | N-(butyloxycarbonyl)-6-aminohexanoic acid | C(CCC)OC(=O)NCCCCCC(=O)O | C11H21NO4
reactant | methyl-5-aminovaleric acid | CC(C(=O)O)CCCN | C6H13NO2
reactant | N-(butyloxycarbonyl)-5-aminovaleric acid | C(CCC)OC(=O)NCCCCC(=O)O | C10H19NO4
reactant | guanidinium | NC(=[NH2+])N
product | SF-6,6 | C(CCC(=O)O)CCNC(=O)CCCCCN=C(N)N | C13H26N4O3
